US07846950B2
5-{3-Fluoro-4-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidine-1-carbonyl]-phenoxymethyl}-thiophene-2-carbonitrile
The title compound is prepared in a manner substantially analogous to Procedures D and E using 2-fluoro-4-hydroxy-benzoic acid methyl ester [CAS 197507-22-5], 5-bromomethyl-thiophene-2-carbonitrile [CAS 134135-41-4], and 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine. MS (ES+) m/e 428.3

reactant | 2-fluoro-4-hydroxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)O)F)=O | C8H7FO3
reactant | 5-bromomethyl-thiophene-2-carbonitrile | BrCC1=CC=C(S1)C#N | C6H4BrNS
reactant | 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine | C[C@H]1N(CCC1)C[C@H]1NCCC1 | C10H20N2
product | 5-{3-Fluoro-4-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidine-1-carbonyl]-phenoxymethyl}-thiophene-2-carbonitrile | FC=1C=C(OCC2=CC=C(S2)C#N)C=CC1C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C | C23H26FN3O2S
